US04782105
N,N-Didodecylhydroxylamine
Following the general procedure of Example 12, to a solution of 50 grams (0.14 mol) of didodecylamine dissolved in 200 ml of n-propanol at 40° C. is added dropwise 9.62 grams (0.14 mol) of 50% aqueous hydrogen peroxide solution. After 72 hours at 40°-45° C., the reaction mixture is filtered to give a crude product which is subsequently recrystallized from 300 ml of hexane. The above-named product is obtained in a yield of 24.8 grams (48%) as white needles melting at 90°-92° C.

reactant | didodecylamine | 0.14 mol, 50 grams | C(CCCCCCCCCCC)NCCCCCCCCCCCC | C24H51N
reactant | hydrogen peroxide | 0.14 mol, 9.62 grams | OO | H2O2
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | N,N-Didodecylhydroxylamine | C(CCCCCCCCCCC)N(O)CCCCCCCCCCCC | C24H51NO
